US04107307
6-Methyl-imidazo[1,5-d]-as-triazin-4(3H)-one
A 27.2 gm. portion of 3-(2-methyl-4-imidazolylmethylene)carbazic acid ethyl ester in 200 ml. of diphenyl ether is reacted as described in Example 70 giving the desired product m.p. 303°-305.5° C.

reactant | 3-(2-methyl-4-imidazolylmethylene)carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1)C)=O | C8H12N4O2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-Methyl-imidazo[1,5-d]-as-triazin-4(3H)-one | CC1=NC=C2N1C(NN=C2)=O | C6H6N4O
